US08022223B2
Step B: Preparation of 7-chloro-3,5-dimethylisoxazolo[4,5-b]pyridine:
3,5-dimethylisoxazolo[4,5-b]pyridine 4-oxide (0.650 g, 3.96 mmol) in chloroform (5 mL), was added POCl3 (1.45 mL, 15.8 mmol) and the mixture was heated at 80° C. for 2 hours. The solution was cooled and poured onto ice water. The solution was neutralized with saturated NaHCO3 and the solution was then extracted with EtOAc, dried, and concentrated. The solid was triturated with ether and filtered twice to obtain two crops of the title compound (0.417 g, 57.7% yield).

reactant | 3,5-dimethylisoxazolo[4,5-b]pyridine 4-oxide | 3.96 mmol, 0.650 g | CC1=NOC=2C1=[N+](C(=CC2)C)[O-] | C8H8N2O2
reactant | POCl3 | 15.8 mmol, 1.45 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-3,5-dimethylisoxazolo[4,5-b]pyridine | 0.417 g, 57.7% yield | ClC1=C2C(=NC(=C1)C)C(=NO2)C | C8H7ClN2O
